US05925661
4-Hydrazino-3-methoxybenzoic acid hydrochloride
A solution of 2.17 g of NaNO2 in 40 ml of H2O is added slowly to a solution, cooled to 0° C., of 5 g of 4-amino-3-methoxybenzoic acid in 50 ml of concentrated HCl. After 1 hour 15 minutes of stirring at 0° C., the mixture is cooled to -10° C., and a solution of 23.6 g of SnCl2.2H2O in 20 ml of concentrated HCl and 20 ml of water is added over 30 min. After one and a half hours of stirring at -10° C., the mixture is filtered, and the precipitate is washed with 50 ml of pentane to obtain, after drying, 6 g of expected product.

reactant | NaNO2 | 2.17 g | N(=O)[O-].[Na+]
reactant | 4-amino-3-methoxybenzoic acid | 5 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | SnCl2.2H2O | 23.6 g | O.O.Cl[Sn]Cl
solvent | H2O | 40 ml | O | H2O
solvent | HCl | 50 ml | Cl | ClH
solvent | HCl | 20 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 4-Hydrazino-3-methoxybenzoic acid hydrochloride | Cl.N(N)C1=C(C=C(C(=O)O)C=C1)OC | InChI=1S/C8H10N2O3.ClH/c1-13-7-4-5(8(11)12)2-3-6(7)10-9;/h2-4,10H,9H2,1H3,(H,11,12);1H
